US07211572B2
To a solution of benzyl N-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxybutyl]-N-methylcarbamate (12.84 g) in chloroform (150 ml) was added 1,1,1-tris(acetoxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (Dess-Martin reagent) (15.50 g) under ice-cooling, and the mixture was stirred for 1 hr. The reaction mixture was washed successively with saturated aqueous sodium hydrogen carbonate solution, saturated aqueous sodium sulfite solution and saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to give benzyl N-[4-(tert-butyldiphenylsilanyloxy)-2-oxobutyl]-N-methylcarbamate (10.92 g). To a solution of the obtained compound (7.95 g) in methanol (70 ml) were added methyl orthoformate (70 ml) and pyridinium p-toluenesulfonate (4.08 g) and the mixture was stirred at 60° C. for 18 hr. The reaction mixture was concentrated, and ethyl acetate was added to the residue and the precipitated solid was filtered off. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:5) to give benzyl N-[4-(tert-butyldiphenylsilanyloxy)-2,2-dimethoxybutyl]-N-methylcarbamate (2.25 g).

reactant | benzyl N-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxybutyl]-N-methylcarbamate | 12.84 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CN(C(OCC1=CC=CC=C1)=O)C)O | C29H37NO4Si
reactant | Dess-Martin reagent | 15.50 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl N-[4-(tert-butyldiphenylsilanyloxy)-2-oxobutyl]-N-methylcarbamate | 10.92 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CN(C(OCC1=CC=CC=C1)=O)C)=O | C29H35NO4Si
